US04638067
2-[(t-Butoxycarbonylamino)methyl]azetidine
A suspension of 18.8 g (68.0 mmol) of 1-benzyl-2-[(t-butoxycarbonylamino)methyl]azetidine, 8.2 g (137 mmol) of acetic acid, 1.0 g of 20% palladium on carbon and 200 ml of tetrahydrofuran was shaken in a hydrogen atmosphere at pressures of 48.3-51.7 psi and temperatures of 21.5°-27° for 16 hours. The catalyst was removed by filtration and the solvent was removed in vacuo to give 11.7 g (92%) of the title compound as a colorless viscous oil which was used without further purification.

reactant | 1-benzyl-2-[(t-butoxycarbonylamino)methyl]azetidine | 68.0 mmol, 18.8 g | C(C1=CC=CC=C1)N1C(CC1)CNC(=O)OC(C)(C)C | C16H24N2O2
reactant | acetic acid | 137 mmol, 8.2 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-[(t-Butoxycarbonylamino)methyl]azetidine | 11.7 g, 92% | C(C)(C)(C)OC(=O)NCC1NCC1 | C9H18N2O2
